US06353006B1
To a solution of 2,3-dimethyl-6-nitroaniline (3.0 g, 1.0 equiv.) in toluene (150 mL) was added thiophosgene (2.5 mL, 1.8 equiv.) and the reaction mixture was heated at the reflux temp. overnight. The resulting mixture was concentrated under reduced pressure and the residue was purified by column chromatography (10% CH2Cl2/hex) to afford 2,3-dimethyl-6-nitrophenyl isothiocyanate as a light yellow solid (3.63 g, 95%): 1H NMR (CDCl3) δ2.39 (s, 3H), 2.40 (s, 3H), 7.17 (d, J=8.4 Hz, 1H), 7.83 (d, J=8.7 Hz, 1H).

reactant | 2,3-dimethyl-6-nitroaniline | 3.0 g, 1.0 equiv. | CC1=C(N)C(=CC=C1C)[N+](=O)[O-] | C8H10N2O2
reactant | thiophosgene | 2.5 mL, 1.8 equiv. | C(=S)(Cl)Cl | CCl2S
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 2,3-dimethyl-6-nitrophenyl isothiocyanate | 3.63 g, 95% | CC1=C(C(=CC=C1C)[N+](=O)[O-])N=C=S | C9H8N2O2S
